US05439917
3-(Carbamoylmethyl)-2-phenylpyrrolo[2,3-b]pyridine (0.35 g, 1.4 mmol) and phenacyl bromide (0.33 g) in acetonitrile (5 ml) were refluxed under argon for 3 h. The resulting yellow suspension was isolated by filtration (0.4 g). The sparingly soluble raw product was dissolved in a mixture of methanol (20 ml) and methylene chloride (480 ml), loaded on a flash chromatography column (SiO2 /CH2Cl2 :MeOH 96:4), and eluted with a) 1000 ml MeOH:CH2Cl2 2.5:97.5; b) 1000 ml MeOH:CH2Cl2 5:95; c) 1000 ml MeOH:CH2Cl2 1:9 to afford pure 3-(carbamoylmethyl)-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine which was isolated as its hydrobromide (0.14 g, 22%).

reactant | 3-(Carbamoylmethyl)-2-phenylpyrrolo[2,3-b]pyridine | 1.4 mmol, 0.35 g | C(N)(=O)CC1=C(NC2=NC=CC=C21)C2=CC=CC=C2 | C15H13N3O
reactant | phenacyl bromide | 0.33 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | methanol | 20 ml | CO | CH4O
solvent | methylene chloride | 480 ml | C(Cl)Cl | CH2Cl2
product | 3-(carbamoylmethyl)-7-phenacyl-2-phenylpyrrolo[2,3-b]pyridine | C(N)(=O)CC1=C(N=C2N(C=CC=C21)CC(=O)C2=CC=CC=C2)C2=CC=CC=C2 | C23H19N3O2
